US08541455B2
ethyl (4-benzyl-1-{5-[ethyl(phenyl)sulfamoyl]pyridin-2-yl}-5-oxo-2,5-dihydro-1H-pyrazol-3-yl)acetate (Compound 106 of Table I)
According to the process described in Example 1.3, starting with 5 g (17.1 mmol) of diethyl 2-benzyl-3-oxopentanedioate and 5 g (17.1 mmol) of N-ethyl-6-hydrazino-N-phenylpyridine-3-sulfonamide, 3 g of ethyl 4-benzyl-1-{5-[ethyl(phenyl)sulfamoyl]pyridin-2-yl}-5-oxo-2,5-dihydro-1H-pyrazol-3-yl)acetate are obtained in the form of a white powder.

reactant | diethyl 2-benzyl-3-oxopentanedioate | 17.1 mmol, 5 g | C(C1=CC=CC=C1)C(C(=O)OCC)C(CC(=O)OCC)=O | C16H20O5
reactant | N-ethyl-6-hydrazino-N-phenylpyridine-3-sulfonamide | 17.1 mmol, 5 g | C(C)N(S(=O)(=O)C=1C=NC(=CC1)NN)C1=CC=CC=C1 | C13H16N4O2S
reactant | acetate | C(C)(=O)[O-]
product | ethyl (4-benzyl-1-{5-[ethyl(phenyl)sulfamoyl]pyridin-2-yl}-5-oxo-2,5-dihydro-1H-pyrazol-3-yl)acetate | C(C1=CC=CC=C1)C1=C(NN(C1=O)C1=NC=C(C=C1)S(N(C1=CC=CC=C1)CC)(=O)=O)CC(=O)OCC | C27H28N4O5S
